US06136831
The procedure of Example 9 was repeated using 1-(6-methylbenzothiazol-2-yl)-4,4-difluorobutane-1,3-dione and 4-methylsulfonylphenylhydrazine hydrochloride as the starting materials to obtain 6-methyl-2-[1-(4-methylsulfonylphenyl)-3-difluoromethyl-1H-pyrazol-5-yl]benzothiazole (yield, 84%). NMR(CDCl3) δ: 2.51 (3H, s), 3.10 (3H, s), 6.80 (1H, t, J=54.8 Hz), 7.19 (1H, s), 7.33 (1H, app d, J=8.3 Hz), 7.68 (1H, bs), 7.71-7.74 (2H, m), 7.81 (1H, d, J=8.6 Hz), 8.01-8.04 (2H, m); mp 183-184° C. (ethanol)

reactant | 1-(6-methylbenzothiazol-2-yl)-4,4-difluorobutane-1,3-dione | CC1=CC2=C(N=C(S2)C(CC(C(F)F)=O)=O)C=C1 | C12H9F2NO2S
reactant | 4-methylsulfonylphenylhydrazine hydrochloride | Cl.CS(=O)(=O)C1=CC=C(C=C1)NN
product | 6-methyl-2-[1-(4-methylsulfonylphenyl)-3-difluoromethyl-1H-pyrazol-5-yl]benzothiazole | 84% | CC1=CC2=C(N=C(S2)C2=CC(=NN2C2=CC=C(C=C2)S(=O)(=O)C)C(F)F)C=C1 | C19H15F2N3O2S2
